US09062033B2
methyl 2-iodo-3-methylbenzoate (D58)
2-iodo-3-methylbenzoic acid (595 mg, 2.27 mmol) was dissolved in DCM/MeOH=1/1 (5 ml) at 0° C., then TMS-CH2N2 (2M in Et2O, 1.4 ml, 2.8 mmol) was added. After 1.5 hours at RT solvents were evaporated. Yield 630 mg yellow oil.

reactant | 2-iodo-3-methylbenzoic acid | 2.27 mmol, 595 mg | IC1=C(C(=O)O)C=CC=C1C | C8H7IO2
reactant | DCM MeOH | C(Cl)Cl.CO
product | methyl 2-iodo-3-methylbenzoate | IC1=C(C(=O)OC)C=CC=C1C | C9H9IO2
